US09145380B2
b) 2-(4-Bromo-phenyl)-ethanesulfonyl chloride
Thionyl chloride (1.51 mL, 20.8 mmol) was added dropwise at 0° C. to a suspension of sodium 2-(4-bromo-phenyl)-ethanesulfonate (4.33 g, 15.08 mmol) in a mixture of anhydrous benzene (50 mL) and N,N-dimethylformamide (1 mL). The reaction mixture was allowed to warm to room temperature and was then heated at 80° C. for 18 hours. The reaction mixture was cooled to room temperature and filtered through a pad of Celite. The solids were washed with benzene and the combined filtrates were concentrated in vacuo. The residue was taken up in hexane (30 mL) and the resulting suspension was heated at 50° C. for 30 min. After cooling to room temperature, the formed precipitate was collected by filtration to give 4.06 g (95% yield) of the title compound.

reactant | Thionyl chloride | 20.8 mmol, 1.51 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium 2-(4-bromo-phenyl)-ethanesulfonate | 15.08 mmol, 4.33 g | BrC1=CC=C(C=C1)CCS(=O)(=O)[O-].[Na+]
reactant | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-(4-Bromo-phenyl)-ethanesulfonyl chloride | 4.06 g, 95% yield | BrC1=CC=C(C=C1)CCS(=O)(=O)Cl | C8H8BrClO2S
